US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-benzyloxy-2-methylphenyl)methyl]-5-trifluoromethyl-1H-pyrazole
A suspension of 4-[(4-benzyloxy-2-methylphenyl)methyl]-5-trifluoromethyl-1,2-dihydro-3H-pyrazol-3-one (0.5 g), acetobromo-α-D-galactose (0.62 g) and potassium carbonate (0.29 g) in acetonitrile (5 mL) was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give the title compound (0.66 g).

reactant | 4-[(4-benzyloxy-2-methylphenyl)methyl]-5-trifluoromethyl-1,2-dihydro-3H-pyrazol-3-one | 0.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC=1C(NNC1C(F)(F)F)=O)C | C19H17F3N2O2
reactant | acetobromo-α-D-galactose | 0.62 g | CC(=O)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-benzyloxy-2-methylphenyl)methyl]-5-trifluoromethyl-1H-pyrazole | 0.66 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)C(F)(F)F | C33H35F3N2O11
